Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Tylenol OD
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ F with h/o bipolar disorder with a prior suicide attempt 
with APAP admitted with tylenol OD. Patient was recently in 
___ for two weeks (___) for 
depressive episode. There they changed around a couple of her 
psychiatric medications. She has had several recent stressors in 
the last few months including a separation from her husband, 
moving to a new house, isolation from friends/family ___ the 
move, and a neighbor who is by her report sexually harrassing 
her. Last night at about 8:30pm she had had enough and decided 
to kill herself. She went to the pharmacy and bought a bottle of 
tylenol ___ tabs of 500mg) and took almost all of it. She also 
took 26 2mg tablets of klonipin. She had nausea and abdominal 
pain and vomited (some blood) all night. On the morning of 
admission she called her sister and was taken by EMS to ___ 
___.
She presented to ___ 15 hours after ingestion with apap level 
57. started on Nac at that time 10,500mg and then 3500 mg given 
IV. She was also given activated charcoal and zofran.
.
VS on presentation to the ED: 98.1 64 128/85 18 97. At ___ ED 
she received 50mg/kg NAC for 4 hours and then started receiving 
100mg/kg of NAC for 16 hours.
.
VS prior to transfer: HR 73 BP 139/68 RR 21 Sat 100% on RA
.
On arrival to the floor patient had no complaints of abdominal 
pain, nausea, vomiting. Did have diarrhea after receiving the 
activated charcoal. Also was hungry.
 
Past Medical History:
Bipolar disease - Dr. ___ her psych meds
Suidide attempts (30 since age ___ per OSH records) Per patient 
only once prior and that time was with APAP as well
Inpatient psych admission at ___ in ___ for 
depression
TAH
CCY
L knee replacement
Restless leg syndrome
 
Social History:
___
Family History:
No liver disease in family. two brothers and father ___ 
suicide -> all in month of ___. Mother burned to death at age 
___.
 
Physical Exam:
VITALS: 98.4 151/91 HR 61 RR 18 98%RA
GEN: Middle-aged F in NAD
HEENT: Nc/AT anicteric sclera. MMM
NECK: No JVD
LUNGS: CTAB
HEART: RRR no m/r/g
ABD: Soft. NT/ND no HSM. Negative ___ sign
EXTREM: Warm. No edema
NEURO: A+OX3 no asterixis. Pupils equal, round, reactive to 
light
 
Pertinent Results:
___ 04:55PM BLOOD WBC-15.1* RBC-4.84 Hgb-14.3 Hct-43.7 
MCV-90 MCH-29.5 MCHC-32.6 RDW-13.5 Plt ___
___ 04:45AM BLOOD WBC-10.0 RBC-4.18* Hgb-12.4 Hct-37.6 
MCV-90 MCH-29.6 MCHC-33.0 RDW-13.0 Plt ___
___ 06:40AM BLOOD WBC-9.1 RBC-4.12* Hgb-12.0 Hct-37.8 
MCV-92 MCH-29.1 MCHC-31.6 RDW-13.1 Plt ___
___ 04:55PM BLOOD Neuts-76.8* ___ Monos-2.8 Eos-1.4 
Baso-0.4
___ 04:55PM BLOOD ___ PTT-28.1 ___
___ 05:20AM BLOOD ___ PTT-32.1 ___
___ 11:55PM BLOOD ___ PTT-26.0 ___
___ 06:40AM BLOOD ___ PTT-25.8 ___
___ 04:55PM BLOOD Glucose-109* UreaN-16 Creat-0.9 Na-144 
K-3.3 Cl-109* HCO3-20* AnGap-18
___ 05:20AM BLOOD Glucose-121* UreaN-9 Creat-0.7 Na-140 
K-3.4 Cl-109* HCO3-20* AnGap-14
___ 06:40AM BLOOD Glucose-108* UreaN-7 Creat-0.6 Na-142 
K-4.6 Cl-108 HCO3-30 AnGap-9
___ 04:55PM BLOOD ALT-347* AST-549* AlkPhos-68 TotBili-0.6
___ 05:20AM BLOOD ALT-684* AST-2035* AlkPhos-63 TotBili-0.4
___ 12:33PM BLOOD ALT-2939* AST-3412* AlkPhos-66 
TotBili-0.4
___ 04:45AM BLOOD ALT-___* AST-2729* AlkPhos-64 
TotBili-0.4
___ 11:55PM BLOOD ALT-1520* AST-578* AlkPhos-71 TotBili-0.3
___ 06:40AM BLOOD ALT-712* AST-325* AlkPhos-66 TotBili-0.3
___ 04:55PM BLOOD Lipase-76*
___ 04:55PM BLOOD Calcium-9.6 Phos-2.5* Mg-2.2
___ 04:45AM BLOOD Albumin-3.9 Calcium-8.8 Phos-1.9* Mg-1.9
___ 06:40AM BLOOD Albumin-3.7 Calcium-9.5 Phos-2.5* Mg-2.1
___ 04:45AM BLOOD TSH-0.27
___ 04:55PM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE IgM 
HBc-NEGATIVE IgM HAV-NEGATIVE
___ 04:55PM BLOOD HCG-<5
___ 04:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-17.0 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:55PM BLOOD HCV Ab-NEGATIVE
___ 11:01PM BLOOD Type-ART pO2-79* pCO2-32* pH-7.42 
calTCO2-21 Base XS--2 Intubat-NOT INTUBA
___ 11:01PM BLOOD Lactate-1.4
___ 08:09PM URINE Color-Straw Appear-Clear Sp ___
___ 08:09PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG

Time Taken Not Noted     Log-In Date/Time: ___ 9:10 pm
      Blood (CMV AB)

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      POSITIVE FOR CMV IgG ANTIBODY BY EIA. 
      111 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  INFECTION AT UNDETERMINED TIME. 
      A positive IgG result generally indicates past exposure. 
      Infection with CMV once contracted remains latent and may 
reactivate
      when immunity is compromised. 
      If current infection is suspected, submit follow-up serum 
in ___
      weeks. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 

Time Taken Not Noted     Log-In Date/Time: ___ 9:10 pm
      Blood (EBV)

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

___ 9:33 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 

___ 3:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 8:09 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    <10,000 organisms/ml. 

 
Brief Hospital Course:
#. Tylenol OD: Patient admitted for ingestion of a large amount 
of tylenol tablets and 26 2mg Klonopin pills. She was at risk 
for fulminant hepatic failure because she fell above 
___ line on admission to ___. She was 
appropriately given NAC and transfered to ___. On admission to 
___ her LFT's were still rising and NAC treatment was 
continued by protocol. Her LFT's peaked at AST: 2939, ALT: 3412 
on ___ and continued to trend down to 497/108 on discharge. 
.  
#. Anion gap metabolic acidosis: Pt had a mild gap metabolic 
acidosis (Gap 15) that was likely secondary to her ingestion 
with a component of vomiting. Salicylates were negative, ETOH 
was negative. Her acidosis resolved on HD 2 with hydration and 
treatment of tylenol OD w/ NAC. All subsequent labs were in the 
normal range.
.  
#.Bipolar disorder: Pt w/ depressive symptoms during her 
hospital stay, voiced that she had no desire to live on ___ and 
was counseled on different forms of help that we could provide 
to help w/ her life stressors.  Her psych meds were held in the 
setting of her acute liver failure but can now be started as her 
liver function normailizes. No manic symptoms during 
hospitalization.  Remained with 1:1 sitter throughout.
.  
#. RLS: Pt w/ history of restless leg syndrome discussed with 
pharmacy risk/benefit of stopping sinemet abruptly and felt that 
low risk of worsening liver failure and high risk of abrupt 
cessation of medication so her medication was continued. No 
episodes of restless legs reported by patient.
.
#Herniated disk: Pt w/ chronic back pain because of herniated 
disk. Started on oxycodone 5mg q6h:prn.

 
Medications on Admission:
Cymbalta 60mg QAM
Provigil 200mg BID
Sinemet 50/200 QHS for RLS
Klonipin 2mg QHS PRN
Percocet PRN back pain
 
Discharge Medications:
1. Carbidopa-Levodopa 50-200 mg Tablet Sustained Release Sig: 
One (1) Tablet PO HS (at bedtime).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Nicotine 7 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
5. Docusate Sodium  Oral
6. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety.  
7. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary diagnosis:
Tylenol OD
Anion Gap Metabolic acidosis

Secondary diagnosis:
Bipolar dissorder
Restless leg syndrome

 
Discharge Condition:
Good

 
Discharge Instructions:
You were admitted to the hospital because you took about half a 
bottle of tylenol and 26 klonopin pills in an attempt to end 
your life.  You were taken first to ___ where they 
started treatment for tylenol overdose and then transfered to 
___ for further treatment and management.  We continued 
treatment for tylenol overdose and monitored your liver for any 
further damage.  Your liver was transiently damaged but it has 
now recovered and we expect its function to normalize in the 
next few days.  You were also found to have a disturbance of the 
electrolytes in your blood caused by you ingestion but this 
resolved with hydration and treatment of you tylenol overdose. 
If you ever feel like you want to end your life because there is 
nothing to live for please contact you psychiatrist or go the 
nearest emergency room so you can receive some help.
 
Followup Instructions:
___